US04956416
3,3-Di-(t-butylperoxy)butanohydrazide was prepared by reacting ethyl 3,3-di-(t-butylperoxy)butanoate with 9 molar excess of 54% aqueous hydrazine. A 3-neck flask equipped with a magnetic stirrer, a thermometer and an addition funnel was charged with 100 mL of IPA, 14.6 g (0.05 mole) of 100% ethyl 3,3-di-(t-butylperoxy)butanoate and 30 g (about 0.50 mole) of 54% aqueous hydrazine at 25° C. The solution was stirred for about 20 hours at 20°-22° C., then the reaction mass was poured into 1000 mL of water and extracted twice with 200 mL portions of methylene chloride. After drying over 10% by weight of anhydrous magnesium sulfate and separation of the spent desiccant by filtration, the methylene chloride was removed in vacuo leaving 14.3 g (>100% of theory, uncorrected) of a liquid product. 75 mL of pentane was added, the solution cooled to 0° C. and a solid precipitated. The solid was separated by filtration nd air dried, leaving 4.8 g (35% of theory, uncorrected) of a white solid, mp, 62°-63° C.

reactant | ethyl 3,3-di-(t-butylperoxy)butanoate | C(C)(C)(C)OOC(CC(=O)OCC)(C)OOC(C)(C)C | C14H28O6
reactant | hydrazine | NN | H4N2
reactant | IPA | 100 mL | CC(C)O | C3H8O
reactant | ethyl 3,3-di-(t-butylperoxy)butanoate | 0.05 mole, 14.6 g | C(C)(C)(C)OOC(CC(=O)OCC)(C)OOC(C)(C)C | C14H28O6
reactant | hydrazine | about 0.50 mole, 30 g | NN | H4N2
reactant | water | 1000 mL | O | H2O
solvent | pentane | 75 mL | CCCCC | C5H12
product | 3,3-Di-(t-butylperoxy)butanohydrazide | yield of 81% | C(C)(C)(C)OOC(CC(=O)NN)(C)OOC(C)(C)C | C12H26N2O5
